US03989709
2-(3-Chloropropylamino)-1-phenylbenzimidazole
Thionyl chloride (10 ml.) was added dropwise to a stirred solution of 2-(3-hydroxypropylamino)-1-phenylbenzimidazole (11.0 g.) in dry chloroform (100 ml.) and the solution heated under reflux for 2 hours. On dilution with ether the title compound crystallised as its hydrochloride (13.06 g., m.p. 176° to 179° C). Found: C, 59.65, H, 5.3, N, 12.95%. C16H16ClN3.HCl requires: C, 59.65, H, 5.3, N, 13.05%.

reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(3-hydroxypropylamino)-1-phenylbenzimidazole | 11.0 g | OCCCNC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C16H17N3O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Chloropropylamino)-1-phenylbenzimidazole | ClCCCNC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C16H16ClN3
